US07351857B2
To a mixture of 2-(2-ethylaminoindan-5-ylsulfanyl)-2-methylpropionic acid tert-butyl ester and borane complex (11.0 g; 33 mmol), dissolved in CH2Cl2 (100 mL), is added 4-trifluoromethoxyphenyl isocyanate (10.2 g; 50.2 mmol) and the reaction was allowed to stir at RT for 18 h. The solvent was removed under reduced pressure and the crude residue was purified by flash chromatography (SiO2) eluting with a hexanes-EtOAc gradient to afford 11.2 g (62%) of 2-{2-[1-ethyl-3-(4-trifluoromethoxyphenyl)ureido]indan-5-ylsulfanyl}-2-methylpropionic acid tert butyl ester as a white foam.

reactant | 2-(2-ethylaminoindan-5-ylsulfanyl)-2-methylpropionic acid tert-butyl ester | C(C)(C)(C)OC(C(C)(C)SC=1C=C2CC(CC2=CC1)NCC)=O | C19H29NO2S
reactant | 4-trifluoromethoxyphenyl isocyanate | 50.2 mmol, 10.2 g | FC(OC1=CC=C(C=C1)N=C=O)(F)F | C8H4F3NO2
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | 2-{2-[1-ethyl-3-(4-trifluoromethoxyphenyl)ureido]indan-5-ylsulfanyl}-2-methylpropionic acid tert butyl ester | 11.2 g, 62% | C(C)(C)(C)OC(C(C)(C)SC=1C=C2CC(CC2=CC1)N(C(=O)NC1=CC=C(C=C1)OC(F)(F)F)CC)=O | C27H33F3N2O4S
